US06262059B1
a) 2-(4-Ethoxycarbonylpiperidino)-4-(3-chloro-4methoxybenzylamino)-6-cyanoquinoline
A mixture comprising 750 mg of 2-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinoline, 1.6 ml of isonipecotic acid and 5 ml of N-methyl-2-pyrrolidone was heated on an oil bath at 130° C. for 3 hours and cooled, followed by the addition of water. The resulting mixture was extracted with ethyl acetate and the ethyl acetate layer was washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (20 to 40% ethyl acetate/hexane) and thereafter recrystallized from ethyl acetate/hexane to give 860 mg of the title compound.

reactant | 2-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanoquinoline | 750 mg | ClC1=NC2=CC=C(C=C2C(=C1)NCC1=CC(=C(C=C1)OC)Cl)C#N | C18H13Cl2N3O
reactant | isonipecotic acid | 1.6 ml | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | N-methyl-2-pyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-(4-Ethoxycarbonylpiperidino)-4-(3-chloro-4methoxybenzylamino)-6-cyanoquinoline | 860 mg | C(C)OC(=O)C1CCN(CC1)C1=NC2=CC=C(C=C2C(=C1)NCC1=CC(=C(C=C1)OC)Cl)C#N | C26H27ClN4O3
